US07141352B2
A mixture of 118 g of benzimidazole, 48.5 g of ethylene oxide, and 400 g of N,N-dimethylacetamide was heated and stirred in an autoclave at 100° C. for 16 hours. The solvent was distilled off in vacuo, yielding crude 2-(1H-benzimidazol-1-yl)ethanol.

reactant | benzimidazole | 118 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | ethylene oxide | 48.5 g | C1CO1 | C2H4O
solvent | N,N-dimethylacetamide | 400 g | CN(C(C)=O)C | C4H9NO
product | 2-(1H-benzimidazol-1-yl)ethanol | N1(C=NC2=C1C=CC=C2)CCO | C9H10N2O
